US08067445B2
Step 1: [2′-(N″-Cyano-N′-cyclopropylmethyl-N-ethyl-guanidinomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 33, Step 6, using the following starting materials: [2′-(3-cyano-1-ethyl-2-phenyl-isoureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester and (aminomethyl)cyclopropane.

reactant | [2′-(3-cyano-1-ethyl-2-phenyl-isoureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(OC1=CC=CC=C1)=NC#N)CC)=O | C29H28F3N3O4
reactant | (aminomethyl)cyclopropane | NCC1CC1 | C4H9N
product | [2′-(N″-Cyano-N′-cyclopropylmethyl-N-ethyl-guanidinomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=NCC1CC1)NC#N)CC)=O | C27H31F3N4O3
